US08022062B2
3-tert-Butoxycarbonyl-6-(4-carboxy-3-fluoro-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add 1M aqueous NaOH (5.7 mL, 5.7 mmol) to a mixture of 7-chloro-6-(3-fluoro-4-methoxycarbonyl-benzylamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.04 g, 2.86 mmol) in 1,4-dioxane (13.3 mL) and water (2.6 mL) at room temperature. Heat the mixture at 50° C. for 2 h. Cool the mixture to 0° C., add a solution of di-tert-butyl-dicarbonate (0.62 g, 2.9 mmol) in 1,4-dioxane (2 mL) and stir at 0° C. for 2 h. Concentrate in vacuo, add EtOAc (50 mL), 1N aqueous KHSO4 (5.7 mL, 5.7 mmol) and water (20 mL) to pH=1. Dry the organic phase over Na2SO4, filter and concentrate in vacuo to afford the title compound as a yellow oil (1.25 g, 98%) that was used without further purification. MS (ES+) m/z: 449.1 (M+H)+.

reactant | NaOH | 5.7 mmol, 1M, 5.7 mL | [OH-].[Na+]
reactant | 7-chloro-6-(3-fluoro-4-methoxycarbonyl-benzylamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.86 mmol, 1.04 g | ClC1=C(C2=C(CCNCC2)C=C1)NCC1=CC(=C(C=C1)C(=O)OC)F | C19H20ClFN2O2
reactant | di-tert-butyl-dicarbonate | 2.9 mmol, 0.62 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | KHSO4 | 5.7 mmol, 1N, 5.7 mL | OS(=O)(=O)[O-].[K+]
solvent | 1,4-dioxane | 13.3 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.6 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-tert-Butoxycarbonyl-6-(4-carboxy-3-fluoro-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.25 g, 98% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)NCC2=CC(=C(C=C2)C(=O)O)F | C23H26ClFN2O4
